US08217069B2
A mixture of malonamide (5.1 g) and sodium ethoxide (20% ethanol solution, 34.3 g) in methanol (125 mL) was stirred at room temperature for 1 hour. To the mixture was added ethyl 2,2-difluoroacetate (6.31 mL), and the mixture was heated at reflux for 10 hours, and then stirred at room temperature overnight. To the mixture was added 1 mol/L hydrochloric acid until the pH became 3. The mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate thrice. The extracts were washed with brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=2/1), and collected by filtration. The collected solids were dried under reduced pressure to give 2-difluoromethyl-4,6-dihydroxypyrimidine (2.36 g). The title compound was prepared in a similar manner to that described in Reference Example 177 using this material instead of 4,6-dihydroxy-2-methylpyrimidine.

reactant | malonamide | 5.1 g | C(CC(=O)N)(=O)N | C3H6N2O2
reactant | sodium ethoxide | 34.3 g | [O-]CC.[Na+]
reactant | ethyl 2,2-difluoroacetate | 6.31 mL | FC(C(=O)OCC)F | C4H6F2O2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 125 mL | CO | CH4O
product | 2-difluoromethyl-4,6-dihydroxypyrimidine | 2.36 g | FC(C1=NC(=CC(=N1)O)O)F | C5H4F2N2O2
